US05872115
Step 1): A mixture of 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (2.68 g, 6 mmol) and 40% methylamine in MeOH (5 ml, 64 mmol) in DMF (30 ml) was heated in a sealed tube at 180° C. for 7 hours. After cooling, the reaction mixture was poured into H2O and extracted with AcOEt. The extract was washed with H2O, dried over MgSO4 and evaporated, followed by crystallization from EtOH to give 5-methylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide, 2.28 g (83%): mp 185° C.

reactant | 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 6 mmol, 2.68 g | FC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C26H26FN3O3
reactant | methylamine | CN | CH5N
reactant | MeOH | 64 mmol, 5 ml | CO | CH4O
reactant | H2O | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-methylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | CNC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C27H30N4O3
